US07153851B2
(3S,4S)-3-Aminomethyl-1-benzyl-4-fluoropyrrolidine (186 mg) was dissolved in methanol (4 mL). To this solution, molecular sieves 4A (80.0 mg) and benzaldehyde (90.8 μL) were sequentially added and the mixture was stirred at room temperature for 1 hour. Subsequently, a borane-pyridine complex (90.2 μL) was added and the mixture was further stirred at room temperature for 3 hours. This was followed by addition of 6 mol/L hydrochloric acid (1.5 mL) and stirring for 1 hour. Subsequently, a 6 mol/L aqueous solution of sodium hydroxide was added to make the mixture basic and the mixture was extracted with diethyl ether (3×10 mL). The diethyl ether extracts were combined and the combined diethyl ether layer was dried over anhydrous sodium sulfate and was then concentrated under reduced pressure. The resulting residue was purified on a silica gel column (eluant=hexane:ethyl acetate=4:1) to give 179 mg of (3S,4S)-1-benzyl-3-benzylaminomethyl-4-fluoropyrrolidine as a pale brown oil.

reactant | (3S,4S)-3-Aminomethyl-1-benzyl-4-fluoropyrrolidine | 186 mg | NC[C@H]1CN(C[C@H]1F)CC1=CC=CC=C1 | C12H17FN2
reactant | benzaldehyde | 90.8 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 6 mol/L, 1.5 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | (3S,4S)-1-benzyl-3-benzylaminomethyl-4-fluoropyrrolidine | 179 mg | C(C1=CC=CC=C1)N1C[C@@H]([C@@H](C1)F)CNCC1=CC=CC=C1 | C19H23FN2
